data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC1(C2=C(COC1=O)C(=O)N3CC[C:20]4(C3=C2)[OH+:21]CC[O:10]4)O.C1CCOC1.C(=O)(C(F)(F)F)[O-].O>>CCC1(C2=C(COC1=O)C(=O)N3CC[C:20](=[O+:10]CC[OH:21])C3=C2)O.C1CCOC1.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
[H:20][O+:21](CC)C(CC1=CC=CC=C1)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(CC1=CC=CC=C1)OC 10=20;20,21=21
CC1(C(=O)CC[C:20]1=[O:21])CC[C:11](=[CH:10]CCC2=CC(=CC=C2)OC)[O-:12]>>CC12CC[C:11](=[O:12])[CH:10]([C:20]1(CCC2=O)[O-:21])CCC3=CC(=CC=C3)OC 10,11=10,20;20,21=21;12=11
[H:20][N+:21](CC)(CC)CC.[OH2:10]>>[H:20][OH2+:10].CC[N:21](CC)CC 10=20;20,21=21
C[C:11](C)(C)[O:10][C:20](=[OH+:21])NC(CC1=CC=CC=C1)C(=O)NCC2=CC=CC=C2.C(=O)(C(F)(F)F)[O-].[Cl-]>>C[C+:11](C)C.C1=CC=C(C=C1)CC(C(=O)NCC2=CC=CC=C2)N[C:20](=[O:10])[OH:21].C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
C1COC2=C([C:20]1([C:21]#N)[O-:10])C=CC=C2.CO>>[C-:21]#N.C1COC2=C([C:20]1=[O:10])C=CC=C2.CO 10=20;20,21=21
[H:20][C:21]1(CC([O+:23]=[C:22]1C(=O)OCC)(C(=O)OCC)O)C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-].CC(=O)[O-:10].C1CCOC1>>[H:20][O:10]C(=O)C.CCOC(=O)[C:22]1=[C:21](CC([O:23]1)(C(=O)OCC)O)C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-].C1CCOC1 10=20;22,23=23;20,21=21,22
[Li:20]N(C(C)C)C(C)C.CC12CCC(=[O:10])C(C1CCC3(C2CCC4=COC=C43)C)(C)CO[Si](C)(C)C(C)(C)C>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C1CCC2(C3CCC4=COC=C4C3(CCC2C1(C)CO[Si](C)(C)C(C)(C)C)C)C 10=20,
[H:20][CH:21]([C+:22](C)C)O.CC(=C)C[OH:10]>>[H:20][OH+:10]CC(=C)C.C[C:22](=[CH:21]O)C 10=20;20,21=21,22
[CH2:10]=[C:11](CCC1CCCC[C:20]1=[O:21])[O-:12]>>C1CC[C:20]2([CH2:10][C:11](=[O:12])CCC2C1)[O-:21] 10,11=10,20;20,21=21;12=11
C[O+:11](C)[Si-:10](C)(C)(C)Cl>>C[O:11]C.C[Si:10](C)(C)Cl 10,11=11
[H:20][C:21]1(C2CC(=O)C=C(C2([N+:23]3=[C:22]1NCCC3)[O-])C4=C(NC5=C4C=CC=C5)C)C(=O)C6=CC=C(C=C6)OC.CC[N:10](CC)CC.CCO>>[H:20][N+:10](CC)(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=CC(=O)CC4C3([N:23]5CCCN[C:22]5=[C:21]4C(=O)C6=CC=C(C=C6)OC)[O-] 10=20;20,21=21,22;22,23=23
[H:10][C:11]1(CCCC([CH+:20]1)CC)C>>[H:10][CH:20]1C(CCC[C+:11]1C)CC 10,11=10,20
[H:10][C:11](C)(C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20]1CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C.CC(C)O>>[H:10][C:20]1(CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11](C)C.CC(C)O 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1[C:22](=[OH+:23])CCCC1=O.CC[NH:10]CC.CC[N+](=CC=C(C)C)CC>>[H:20][NH+:10](CC)CC.C1C[C:22](=[CH:21]C(=O)C1)[OH:23].CC[N+](=CC=C(C)C)CC 10=20;22,23=23;20,21=21,22
[H:10][BH3-:11].CCC(C)OS(=O)(=O)C1=CC=C(C=C1)[CH:20]=[O:21]>>[H:10][CH:20](C1=CC=C(C=C1)S(=O)(=O)OC(C)CC)[O-:21].[BH3:11] 10,11=10,20;20,21=21
C[OH:10].C1C[O+:21]=[C:20]2C1(C3=CC=CC=C3O2)C4=CC=CC=C4.[Br-]>>C[OH+:10][C:20]12C(CC[O:21]1)(C3=CC=CC=C3O2)C4=CC=CC=C4.[Br-] 10=20;20,21=21
C[NH:10]C.[Cu:20](Br)Br>>C[NH+:10](C)[Cu-:20](Br)Br 10=20,
C[O:10][CH:20]=[NH:21]>>C[O+:10]=[CH:20][NH-:21] 10=20;20,21=21
[H:20][C:21](C(CCl)O)([C:22](=[O:23])CC(=O)OC)C(=O)OC.C1=CC=[N:10]C=C1.O>>[H:20][N+:10]1=CC=CC=C1.COC(=O)C[C:22](=[C:21](C(CCl)O)C(=O)OC)[O-:23].O 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C[O:10]C(C1=CC=CC=C1)OCC2C(C(C(C(O2)OC3C(CC(C(C3O)OC4C(C(C(C(O4)CN=[N+]=[N-])O)O)O)N=[N+]=[N-])N=[N+]=[N-])O)N=[N+]=[N-])O.CO>>[H:20][O+:10](C)C(C1=CC=CC=C1)OCC2C(C(C(C(O2)OC3C(CC(C(C3O)OC4C(C(C(C(O4)CN=[N+]=[N-])O)O)O)N=[N+]=[N-])N=[N+]=[N-])O)N=[N+]=[N-])O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CO 10=20;20,21=21
[H:20][Br:21].CC(C)C(C)[OH:10]>>[H:20][OH+:10]C(C)C(C)C.[Br-:21] 10=20;20,21=21
CCCC(CCC)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCC(CCC)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
C[OH:10].C1=CC(=CC(=C1)C[C:20](=[OH+:21])O)Br.[Cl-]>>C[OH+:10][C:20](CC1=CC=CC(=C1)Br)(O)[OH:21].[Cl-] 10=20;20,21=21
CC(=C)C1CCC2(C1C3CCC4C5(CCC(=O)C(C5CCC4(C3(CC2)C)C)(C)C)C)[C:20](N6CCN(CC6)C7=CC=C(C=C7)F)([O-:10])[Cl:21].CC[NH+](CC)CC>>CC(=C)C1CCC2(C1C3CCC4C5(CCC(=O)C(C5CCC4(C3(CC2)C)C)(C)C)C)[C:20](=[O:10])N6CCN(CC6)C7=CC=C(C=C7)F.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][N+:21]1(CC23CCCC(C2C1CC4=CC=CC=C34)(C)C)Cl.C1CC(=O)[N-:10]C1=O>>[H:20][N:10]1C(=O)CCC1=O.CC1(CCCC23C1C(CC4=CC=CC=C42)[N:21](C3)Cl)C 10=20;20,21=21
[B-:10](O)([O:11]C1=C2C3=C(CC4C5(C3(CCN4CCCCCC)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O>>[B:10](O)(Br)Br.CCCCCCN1CCC23C4C(=O)CCC2(C1CC5=C3C(=C(C=C5)[O-:11])O4)O.CBr.O 10,11=11
[H:20][NH+:21]1CCCC1.C=C1CCCC2C1CCC(C2)([NH+]3CCCC3)[O-:10]>>[H:20][O:10]C1(CCC2C(C1)CCCC2=C)[NH+]3CCCC3.C1CC[NH:21]C1 10=20;20,21=21
CO[PH:10](I)(I)[I:11]>>CO[PH+:10](I)I.[I-:11] 10,11=11
[H:20][OH+:21]C1C2CCC(C2)O1.[Br-:10]>>[H:20][Br:10].C1CC2CC1C(O2)[OH:21] 10=20;20,21=21
C[C:20](=[OH+:21])C.C(CS)[SH:10]>>C[C:20](C)([OH:21])[SH+:10]CCS 10=20;20,21=21
[H:20][O+:21](C(C#N)C1=CC=CC=C1)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1CC(=O)[O-:10])N(=O)=O>>[H:20][O:10]C(=O)CC1=CC=C(C=C1)N(=O)=O.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]C(C#N)C4=CC=CC=C4 10=20;20,21=21
CCC(=O)N[C:11]1=[CH:10]C=C(C=C1)Br.[Br:20][Br:21]>>CCC(=O)N[C+:11]1C=CC(=C[CH:10]1[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21
